US04297513
4-(2-Hydroxyethyl-mercapto)-benzophenone
11.2 g (0.05 mol) of 4-chlorobenzophenone, 4.3 g (0.055 mol) of 2-mercaptoethanol, 13.8 g (0.1 mol) of calcined K2CO3 and 15 ml of ethyl methyl ketone are warmed (under reflux) for 16 hours under nitrogen. 50 ml of water are poured over the cooled reaction mixture and the resulting mixture is acidified with HCl. The product is taken up in ether. The ether layer is washed with water, dried over Na2SO4 and concentrated. The product, which in this case also is obtained as an oil, crystallises on standing. It is boiled up in hexane as described in (a). Yield: 10.0 g (77%). Melting point 49°-51°.

reactant | 4-chlorobenzophenone | 0.05 mol, 11.2 g | ClC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H9ClO
reactant | 2-mercaptoethanol | 0.055 mol, 4.3 g | SCCO | C2H6OS
reactant | K2CO3 | 0.1 mol, 13.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | water | 50 ml | O | H2O
solvent | ethyl methyl ketone | 15 ml | CC(=O)CC | C4H8O
product | 4-(2-Hydroxyethyl-mercapto)-benzophenone | OCCSC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C15H14O2S
